US08242134B2
1a 2-Cyclopentyl-3-methyl-1-oxo-1,2-dihydro-isoquinoline-4-carboxylic acid ((S)-1-phenyl-propyl)-amide
A mixture of 4-acetyl-3-((S)-1-phenyl-propylamino)-isochromen-1-one (60 mg) and cyclopentylamine (0.06 mL) in acetonitrile (0.2 mL) was heated under microwave irradiation at 170° C. for 15 min. The reaction mixture was partitioned between 2M HCl (3 mL) and ethyl acetate (3 mL). The organic phase was absorbed on SiO2 and flash chromatographed (20 g SiO2 column, gradient heptane-ethyl acetate, the product came out with 40% ethyl acetate) to give 18 mg of the title compound as a colourless solid. LC-MS (m/z) 389.5 (MH+); tR=1.52.

reactant | 4-acetyl-3-((S)-1-phenyl-propylamino)-isochromen-1-one | 60 mg | C(C)(=O)C1=C(OC(C2=CC=CC=C12)=O)N[C@@H](CC)C1=CC=CC=C1 | C20H19NO3
reactant | cyclopentylamine | 0.06 mL | C1(CCCC1)N | C5H11N
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
product | 2-Cyclopentyl-3-methyl-1-oxo-1,2-dihydro-isoquinoline-4-carboxylic acid ((S)-1-phenyl-propyl)-amide | 18 mg | C1(=CC=CC=C1)[C@H](CC)NC(=O)C1=C(N(C(C2=CC=CC=C12)=O)C1CCCC1)C | C25H28N2O2
